US04200641
A mixture of 8 parts of N-(4,5-dichloro-2-nitrophenyl)-4-(diphenylmethyl)-1-piperazinepropanamine and 200 parts of methanol is hydrogenated at normal pressure and at room temperature with 2 parts of Raney-nickel catalyst. After the calculated amount of hydrogen is taken up, the catalyst is filtered off and the filtrate is evaporated, yielding 4,5-dichloro-N1 -{3-[4-(diphenylmethyl)-1-piperazinyl]propyl}-1,2-benzenediamine as an oily residue.

reactant | N-(4,5-dichloro-2-nitrophenyl)-4-(diphenylmethyl)-1-piperazinepropanamine | ClC1=CC(=C(C=C1Cl)NCCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1)[N+](=O)[O-] | C26H28Cl2N4O2
reactant | hydrogen | [H][H] | H2
catalyst | Raney-nickel | [Ni] | Ni
solvent | methanol | CO | CH4O
product | 4,5-dichloro-N1 -{3-[4-(diphenylmethyl)-1-piperazinyl]propyl}-1,2-benzenediamine | ClC=1C=C(C(=CC1Cl)NCCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1)N | C26H30Cl2N4
